### PR TITLE
Rational ind

### PR DESCRIPTION
**Pull request by Gedol**
In the Rational division axioms, Division.Props, add a more natural induction axiom to replace as_ratio.

### CODE REVIEW

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 1]
```diff
@@ -191,27 +191,33 @@ theorem div_eqv_fraction
...
-
-**Property intuition**: Formal fractions satisfy this by definition.
-
-**Proof intuition**: Use the previous result that formal fractions are
-equivalent to division of integers, and that the denominator is nonzero because
-it's positive.
--/
-def as_ratio (p : Fraction ℤ) : AsRatio p := by
+Every fraction satisfies the rational induction axiom, that is
+if a predicate holds for all fractions of the form a / b
```
Comment (Gedol) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: clarify a and b are integers.

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 2]
```diff
@@ -191,27 +191,33 @@ theorem div_eqv_fraction
...
+then it holds for all fractions.
+
+**Property intuition**: Reasonable definitions of divison on formal
+fractions should satsify this basic property.
```
Comment (Gedol) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: clairfy this, say a / b should equal  a // b.

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 3]
```diff
@@ -191,27 +191,33 @@ theorem div_eqv_fraction
...
+
+**Proof intuition**: Expand the definitions of formal fractions, division on
```
Comment (Gedol) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean:208]: goal of intuition:  when we read this some tieme later, this should give the key insight to help understand the goal.

for this one: mention div_eqv_fraction and that it's substitive. keep it short.

File: Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean [hunk 4]
```diff
@@ -191,27 +191,33 @@ theorem div_eqv_fraction
...
+  intro ind_on_motive p
   revert p; intro (a//b)
-  show AsRatio (a//b)
-  have : Integer.Nonzero b := Integer.nonzero_from_positive_inst
-  have : a//b ≃ a / b := eqv_symm div_eqv_fraction
-  exact AsRatio.intro a b ‹Integer.Nonzero b› this
+  show motive (a//b)
+  have b_not_zero : Integer.Nonzero b := Integer.nonzero_from_positive_inst
+  have ind_division : motive (a / b) := @ind_on_motive a b b_not_zero
+  exact motive_subst div_eqv_fraction ind_division
```
Comment (Gedol) [inline Lean4Axiomatic/Rational/Impl/Fraction/Reciprocation.lean]: make a have line above for what this exact line is proving.
